US07569516B2
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonyl-1H-pyrazole-3-carboxylic acid amide (Compound 1.268)
A stirred mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonyl-1 H-pyrazole-3-carbonitrile (1.06 g, 2.21 mmol) and concentrated sulfuric acid (1 ml) was heated to 100° C. for 3 hours. The cooled mixture was added to ice water and the precipitate filtered off, washed with water and air-dried. Purification by flash chomatography (silica, chloroform) gave the title compound (0.869 g, yield 83%) as off-white crystals, mp 217° C., 1H NMR (DMSO-d6): 7.39 (bs, 2H, NH2), 7.57 and 7.78 (bs, 2H, C(O)NH2), and 8.25 (s, 2H, Ar—H).

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonyl-1 H-pyrazole-3-carbonitrile | 2.21 mmol, 1.06 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H4Cl2F6N4O2S
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfonyl-1H-pyrazole-3-carboxylic acid amide | 0.869 g, yield 83% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)N)S(=O)(=O)C(F)(F)F | C12H6Cl2F6N4O3S
